US09303000B2
Synthesis of methyl 2-isopropoxy-6-(trifluoromethyl)pyridine-4-carbimidothioate
In a 100 mL capacity 3-neck round-bottomed flask attached with nitrogen bubbler & magnetic stirrer 2-isopropoxy-6-(trifluoromethyl)pyridine-4-carbothioamide (7.5 g), CH3I (10.18 g), dissolved in 75 ml acetone at RT. Reflux it for 2 h. The completion of the reaction was confirmed by TLC with 20% acetone-hexane as mobile phase. The reaction mixture was distilled & crude 2-isopropoxy-6-(trifluoromethyl)pyridine-4-carbimidothioate forwarded to next step.

reactant | 2-isopropoxy-6-(trifluoromethyl)pyridine-4-carbothioamide | 7.5 g | C(C)(C)OC1=NC(=CC(=C1)C(N)=S)C(F)(F)F | C10H11F3N2OS
reactant | CH3I | 10.18 g | CI | CH3I
reactant | acetone hexane | CC(=O)C.CCCCCC
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | methyl 2-isopropoxy-6-(trifluoromethyl)pyridine-4-carbimidothioate | C(C)(C)OC1=NC(=CC(=C1)C(=N)SC)C(F)(F)F | C11H13F3N2OS
